US04837217
In 40 ml of N,N-dimethylformamide were dissolved 2.2 g of 2-t-butyl-4,5-dichloro-3(2H)-pyridazinone and 2.5 g of 6-(2,2,3,3-tetrafluoropropyloxy)-3-pyridine methanol, and thereto was added 0.7 g of powdery potassium hydroxide. The reaction mixture was stirred overnight at room temperature and poured into water. Then, procedures similar to those in Preparation Example 24 were conducted to obtain 3.6 g of 2-t-butyl-4-chloro-5-[{6-(2,2,3,3-tetrafluoropropyloxy)-3-pyridyl}-methyloxy]-3(2H)-pyridazinone, m.p. 112.0°~118.0° C.

reactant | 2-t-butyl-4,5-dichloro-3(2H)-pyridazinone | 2.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)Cl | C8H10Cl2N2O
reactant | 6-(2,2,3,3-tetrafluoropropyloxy)-3-pyridine methanol | 2.5 g | FC(COC1=CC=C(C=N1)CO)(C(F)F)F | C9H9F4NO2
reactant | potassium hydroxide | 0.7 g | [OH-].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-t-butyl-4-chloro-5-[{6-(2,2,3,3-tetrafluoropropyloxy)-3-pyridyl}-methyloxy]-3(2H)-pyridazinone | 3.6 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OCC=1C=NC(=CC1)OCC(C(F)F)(F)F | C17H18ClF4N3O3
